US04543352
Step 1. 1-Amino-5-methoxy naphthalene
Hydrazine hydrate (150 ml) is added slowly to a stirred mixture of 5-methoxy-1-nitro-naphthalene (320 g), and palladized charcoal (0.1 g) in 95% ethanol (2 liters) previously warmed to 50° C. When the hydrazine addition is complete, additional palladized charcoal (0.1 g) is added and the mixture heated to reflux for about one hour. The reaction mixture is filtered through Celite and the filtrate evaporated in vacuo resulting in a white solid which is recrystallized from H2O and ethanol.

reactant | Hydrazine hydrate | 150 ml | O.NN
reactant | 5-methoxy-1-nitro-naphthalene | 320 g | COC1=C2C=CC=C(C2=CC=C1)[N+](=O)[O-] | C11H9NO3
reactant | charcoal | 0.1 g | C | CH4
reactant | hydrazine | NN | H4N2
reactant | charcoal | 0.1 g | C | CH4
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | 1-Amino-5-methoxy naphthalene | NC1=CC=CC2=C(C=CC=C12)OC | C11H11NO
